US04228082
There were present in a stirrer apparatus protected against moisture 111 grams (1.0 mole) of pivaloyl cyanide, 150 grams (1.5 moles) of concentrated sulfuric acid and 150 ml of glacial acetic acid and there were led in during one hour under stirring at 0°-5° C. 112 grams (2.0 moles) of isobutylene. Then the mixture was warmed up to room temperature and stirred further for 4 hours. Then the mixture was poured on 500 grams of ice and after thorough stirring the precipitated amide was filtered off with suction. After the drying in the vacuum drying cabinet, there were isolated 161 grams of analytically pure trimethyl pyruvic acid-N-t-butylamide which corresponds to a yield of 87% based on the acyl cyanide employed. The amide has a melting point of 65° C.

reactant | pivaloyl cyanide | 1.0 mole, 111 grams | C(C(C)(C)C)(=O)C#N | C6H9NO
reactant | sulfuric acid | 1.5 moles, 150 grams | S(O)(O)(=O)=O | H2O4S
reactant | isobutylene | 2.0 moles, 112 grams | CC(C)=C | C4H8
solvent | acetic acid | 150 ml | C(C)(=O)O | C2H4O2
product | trimethyl pyruvic acid-N-t-butylamide | yield of 87% | C(C)(C)(C)NC(C(=O)C(C)(C)C)=O | C10H19NO2
